US05780482
A mixture of ethyl 4-chloro-6-ethoxy-7-methyl-1,8-naphthyridine-3-carboxylate (1.3 g), 6-amino-2-ethoxy pyridine (0.68 g), IMS (25 ml) and concentrated hydrochloric acid (2 drops) was boiled under reflux for 18 hours. The mixture was cooled and filtered to give ethyl 6-ethoxy-4-(6-ethoxy-2-pyridylamino)-7-methyl-1,8-naphthyridine-3-carboxylate sesquihydrochloride hydrate, m.p. 195°-200° C. Active (1/1) at 30 mg/kg.

reactant | ethyl 4-chloro-6-ethoxy-7-methyl-1,8-naphthyridine-3-carboxylate | 1.3 g | ClC1=C(C=NC2=NC(=C(C=C12)OCC)C)C(=O)OCC | C14H15ClN2O3
reactant | 6-amino-2-ethoxy pyridine | 0.68 g | NC1=CC=CC(=N1)OCC | C7H10N2O
catalyst | hydrochloric acid | 2 drops | Cl | ClH
product | ethyl 6-ethoxy-4-(6-ethoxy-2-pyridylamino)-7-methyl-1,8-naphthyridine-3-carboxylate sesquihydrochloride hydrate | O.Cl.C(C)OC=1C=C2C(=C(C=NC2=NC1C)C(=O)OCC)NC1=NC(=CC=C1)OCC.Cl.Cl.C(C)OC(=O)C=1C=NC2=NC(=C(C=C2C1NC1=NC(=CC=C1)OCC)OCC)C.O | InChI=1S/2C21H24N4O4.3ClH.2H2O/c2*1-5-27-16-11-14-19(25-17-9-8-10-18(24-17)28-6-2)15(21(26)29-7-3)12-22-20(14)23-13(16)4;;;;;/h2*8-12H,5-7H2,1-4H3,(H,22,23,24,25);3*1H;2*1H2
